US08247429B2
methyl 6-fluoro-5-(3-methoxy-3-oxopropyl)-2-methyl-2H-indazole-4-carboxylate
To a solution of methyl 6-fluoro-5-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]-2-methyl-2H-indazole-4-carboxylate (430 mg, 21.47 mmol) in THF/methanol (5 mL/5 mL) was added palladium-carbon powder (86 mg), and the mixture was stirred under a hydrogen atmosphere at room temperature for 18 hr. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure to give the title compound (407 mg, yield 94%).

reactant | methyl 6-fluoro-5-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]-2-methyl-2H-indazole-4-carboxylate | 21.47 mmol, 430 mg | FC=1C(=C(C2=CN(N=C2C1)C)C(=O)OC)\C=C\C(=O)OC | C14H13FN2O4
solvent | THF methanol | 5 mL | C1CCOC1.CO
catalyst | palladium-carbon | 86 mg | [C].[Pd]
product | methyl 6-fluoro-5-(3-methoxy-3-oxopropyl)-2-methyl-2H-indazole-4-carboxylate | 407 mg, yield 94% | FC=1C(=C(C2=CN(N=C2C1)C)C(=O)OC)CCC(=O)OC | C14H15FN2O4
